US05401770
Zinc-Histidine Complex
L-histidine (2.00 g, 12.8 mmol) was added to an MeOH solution of NaOMe (prepared with Na: 0.30 g, MeOH: 50 ml) at 0° C. and stirred. An MeOH solution (30 ml) of zinc acetate dihydrate (1.41 g) was then slowly dropwise added thereto at room temperature. After stirring for 3 hours, the precipitated crystal (in suspension) was recovered by filtration, washed with water, air dried, and then concentrated under a reduced pressure (5 mmHg, 80° C.).

reactant | L-histidine | 12.8 mmol, 2.00 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | NaOMe | 50 ml, 0.30 g | C[O-].[Na+]
reactant | zinc acetate dihydrate | 1.41 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | MeOH | 30 ml | CO | CH4O
product | Zinc Histidine | [Zn].N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C6H9N3O2.Zn/c7-5(6(10)11)1-4-2-8-3-9-4;/h2-3,5H,1,7H2,(H,8,9)(H,10,11);/t5-;/m0./s1
